US06969766B2
1-(Benzothiazole-2-sulfonyl)-4-{[2-N-(benzyloxycarbonyl)-guanin-9-yl]-acetyl}-piperazin-2-one
The title compound was synthesized by the reaction of 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with [2-N-(benzyloxycarbonyl)-guanin-9-yl]-acetic acid as per the procedure of Example 52. 1H NMR (500 MHz; DMSO-d6) δ 11.35 (bs, 2H), 8.34 (m, 1H), 8.25 (m, 1H), 7.81 (s, 0.6H), 7.77 (s, 0.4H), 7.71 (m, 2H), 7.45˜7.30 (m, 5H), 5.23 (s, 2H), 5.13 (s, 1.2H), 5.02 (s, 0.8H), 4.51 (s, 0.8H), 4.27 (s, 1.2H), 4.24 (t, 1.2H), 4.08 (t, 0.8H), 4.03 (t, 1.2H), 3.85 (t, 0.81H).

reactant | 1-(benzothiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CNCC2)=O
reactant | [2-N-(benzyloxycarbonyl)-guanin-9-yl]-acetic acid | C(C1=CC=CC=C1)OC(=O)NC=1NC(C=2N=CN(C2N1)CC(=O)O)=O | C15H13N5O5
product | 1-(Benzothiazole-2-sulfonyl)-4-{[2-N-(benzyloxycarbonyl)-guanin-9-yl]-acetyl}-piperazin-2-one | S1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CN(CC2)C(CN2C=1N=C(NC(C1N=C2)=O)NC(=O)OCC2=CC=CC=C2)=O)=O | C26H22N8O7S2
